US06251925B1
3′-Nitro-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester as a brown solid (1.6 g);
n.m.r. δ values include 3.93 (s, 3 H), 3.94 (s, 3 H), 7.65 (t, 1 H), 7.78 (dd, 1 H), 7.86 (d, 1 H), 7.92-7.95 (m, 2 H), 8.26 (dd, 1 H), 8.46 (t, 1 H); from dimethyl 4-bromophthalate (1.80 g), tetrakis(triphenylphosphino)palladium(0) (246 mg) and 3-nitrophenylboronic acid (1.3 g)

reactant | dimethyl 4-bromophthalate | 1.80 g | BrC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H9BrO4
reactant | 3-nitrophenylboronic acid | 1.3 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
catalyst | tetrakis(triphenylphosphino)palladium(0) | 246 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-Nitro-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester | COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C16H13NO6
